US07122545B2
2.23 g 5-Thiophen-2-ylmethyl-oxazole-4-carboxylic acid methyl ester were suspended in 80 ml 6 N hydrochloric acid and stirred for 5 hours at 95° C. The solvent was removed at 30° C. under vacuum and the residue was suspended in ethylacetate, filtered and dried to yield 1.52 g (79%) 1-amino-3-thiophen-2-yl-propan-2-one hydrochloride; MS (ISP): m/e=156 (M+H+).

reactant | 5-Thiophen-2-ylmethyl-oxazole-4-carboxylic acid methyl ester | 2.23 g | COC(=O)C=1N=COC1CC=1SC=CC1 | C10H9NO3S
reactant | hydrochloric acid | 6 N, 80 ml | Cl | ClH
product | 1-amino-3-thiophen-2-yl-propan-2-one hydrochloride | 1.52 g, 79% | Cl.NCC(CC=1SC=CC1)=O | InChI=1S/C7H9NOS.ClH/c8-5-6(9)4-7-2-1-3-10-7;/h1-3H,4-5,8H2;1H
